US06949542B2
7-Methyl-4-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (5-methyl-2-{3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M291) (311 mg, 0.53 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (154 mg, 63%).

reactant | (5-methyl-2-{3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.53 mmol, 311 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)N1CCCC1)=O)=O)=O | C31H33F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Methyl-4-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)N2CCCC2)=O)C=C1C(F)(F)F | C26H23F3N4O
